US08008317B2
2-(3-Piperidin-4-yl-1H-1,2,4-triazol-5-yl)pyridine Dihydrochloride (8-5)
This material (2.68 g, 8.14 mmol) was suspended in 4 N HCl/dioxane. The stoppered reaction mixture was stirred at room temperature for 16 hours and then diluted with diethyl ether. The solids were isolated by filtration and the hygroscopic solid was digested in acetonitrile. This solid was isolated by filtration and partially dissolved in hot methanol. Upon cooling and addition of some ethyl ether to the solution 2-(3-piperidin-4-yl-1H-1,2,4-triazol-5-yl)pyridine slowly precipitated as the dihydrochloride salt. 1H NMR (500 MHz, DMSO-d6): δ 9.10 (1H, br s), 8.92 (1H, br s), 8.73 (1H, d, J=4.9 Hz), 8.10-8.20 (2H, m), 7.64 (1H, t, J=5.7 Hz), 3.33 (2H, br d, J=12.7 Hz), 3.16 (1H, m), 3.05 (2H, br q, J=11.9 Hz, J=21.8 Hz), 2.18 (2H, br d, J=11.5 Hz), 1.99 (2H, br q, j=11.0 Hz, J=22.2 Hz): m/e (m+1): 230.3.

reactant | 2-(3-piperidin-4-yl-1H-1,2,4-triazol-5-yl)pyridine | N1CCC(CC1)C1=NNC(=N1)C1=NC=CC=C1 | C12H15N5
reactant | HCl dioxane | 4 N | Cl.O1CCOCC1
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
product | 2-(3-Piperidin-4-yl-1H-1,2,4-triazol-5-yl)pyridine Dihydrochloride | Cl.Cl.N1CCC(CC1)C1=NNC(=N1)C1=NC=CC=C1 | InChI=1S/C12H15N5.2ClH/c1-2-6-14-10(3-1)12-15-11(16-17-12)9-4-7-13-8-5-9;;/h1-3,6,9,13H,4-5,7-8H2,(H,15,16,17);2*1H
